US05055579
b) 2-[4-(4,6-bis-trichloromethyl-s-triazin-2-yl)benzoylmethylene]-1-methyl-1,2-dihydroquinoline (compound 39)
Triethylamine (17.4 pbw) are added dropwise at 15° C. to 14.1 pbw of 1,2-dimethyl-quinolinium-p-toluenesulfonate and 22.2 pbw of 4-(4,6-bis-trichloromethyl-s-triazin-2-yl)-benzoylchloride in 150 ml of dried toluene. The mixture is then allowed to warm to room temperature. After 1 hour the mixture is poured onto 600 pbw of water, admixed with 600 pbw of methylene chloride and extracted by shaking. Silica gel (100 pbw) is added to the dried organic phase and the mixture is stirred for 30 minutes. The silica gel is removed by filtration and the solvents are distilled off in vacuo the residue is recrystallized from 2-methoxyethanol, giving strong red crystals.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1,2-dimethyl-quinolinium p-toluenesulfonate | C[N+]1=C(C=CC2=CC=CC=C12)C.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | 4-(4,6-bis-trichloromethyl-s-triazin-2-yl)-benzoylchloride | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)Cl)C=C1)(Cl)Cl | C12H4Cl7N3O
reactant | water | O | H2O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[4-(4,6-bis-trichloromethyl-s-triazin-2-yl)benzoylmethylene]-1-methyl-1,2-dihydroquinoline | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C(=O)C=C2N(C3=CC=CC=C3C=C2)C)C=C1)(Cl)Cl | C23H14Cl6N4O
